US09107916B2
C. 2-(5-hydroxy-4-methylpyrazol-1-yl)pyridine-4-carbonitrile
To a cooled mixture of ethyl (E)-3-[2-(4-cyanopyridin-2-yl)hydrazinyl]-2-methylprop-2-enoate (415 mg, 1.69 mmol) in ethanol (18 mL) was added t-BuOK (568 mg, 5.06 mmol) slowly. After that, the mixture was stirred overnight, filtered, the solid was acidified with HCl (1N), filtered, collected the solid and dried to give 250 mg of the title compound (74%). 1H NMR (400 MHz, CDCl3): δ 1.93 (3H, s), 7.55 (1H, dd, J=1.2 Hz, J=4.8 Hz), 7.64 (1H, s), 8.64 (1H, d, J=4.8 Hz), 8.72 (1H, s). [M+H] Calc'd for C10H8N4O, 201. Found, 201.

reactant | ethyl (E)-3-[2-(4-cyanopyridin-2-yl)hydrazinyl]-2-methylprop-2-enoate | 1.69 mmol, 415 mg | C(#N)C1=CC(=NC=C1)NN/C=C(/C(=O)OCC)\C | C12H14N4O2
reactant | t-BuOK | 5.06 mmol, 568 mg | CC(C)(C)[O-].[K+]
solvent | ethanol | 18 mL | C(C)O | C2H6O
product | 2-(5-hydroxy-4-methylpyrazol-1-yl)pyridine-4-carbonitrile | 250 mg, 74% | OC1=C(C=NN1C1=NC=CC(=C1)C#N)C | C10H8N4O
